US05075330
Reaction of 2-[[3-(trifluoromethyl)phenyl]amino]benzoic acid with methanol and sulfuric acid according to the procedure of Example 26 gives a 71% yield of 2-[[3-(trifluoromethyl)phenyl]amino]benzoic acid, methyl ester as a colorless oil.

reactant | 2-[[3-(trifluoromethyl)phenyl]amino]benzoic acid | FC(C=1C=C(C=CC1)NC1=C(C(=O)O)C=CC=C1)(F)F | C14H10F3NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | 2-[[3-(trifluoromethyl)phenyl]amino]benzoic acid, methyl ester | 71% yield | FC(C=1C=C(C=CC1)NC1=C(C(=O)OC)C=CC=C1)(F)F | C15H12F3NO2
